US06407102B1
1-Methyl-3-(1-pyrrolidinyl)-4-(2-(5-(3-(1-methyl-4-(1-pyrrolidinyl)-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)pentyl)-1H-3-indolyl)-2,5-dihydro-1H-pyrrole-2,5-dione
1.0 g (1.5 mmol) of 3-bromo-4-(2-(5-(3-(4-bromo-1-methyl-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)pentyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione is dissolved in 5 ml (60.6 mmol) of pyrrolidine and stirred overnight at room temp. Excess pyrrolidine is then distilled off. The residue is completely freed from solvent residues in an oil-pump vacuum and then purified by column chromatography (SiO2, CH2Cl2/ethyl acetate 95:5). Yield: 480 mg (49%).

reactant | 3-bromo-4-(2-(5-(3-(4-bromo-1-methyl-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)pentyl)-1H-3-indolyl)-1-methyl-2,5-dihydro-1H-pyrrole-2,5-dione | 1.5 mmol, 1.0 g | BrC=1C(N(C(C1C1=C(NC2=CC=CC=C12)CCCCCC=1NC2=CC=CC=C2C1C=1C(N(C(C1Br)=O)C)=O)=O)C)=O | C31H26Br2N4O4
reactant | pyrrolidine | 60.6 mmol, 5 ml | N1CCCC1 | C4H9N
product | 1-Methyl-3-(1-pyrrolidinyl)-4-(2-(5-(3-(1-methyl-4-(1-pyrrolidinyl)-2,5-dioxo-2,5-dihydro-1H-3-pyrrolyl)-1H-2-indolyl)pentyl)-1H-3-indolyl)-2,5-dihydro-1H-pyrrole-2,5-dione | CN1C(C(=C(C1=O)C1=C(NC2=CC=CC=C12)CCCCCC=1NC2=CC=CC=C2C1C=1C(N(C(C1N1CCCC1)=O)C)=O)N1CCCC1)=O | C39H42N6O4
